US07183306B2
37% aqueous solution of formaldehyde (0.23 ml) and sodium cyanoborohydride (53 mg) were added to a solution of N-(2-{4-[3-amino-1-(4-methoxyphenyl)-1H-pyrazol-5-yl]-phenoxy}ethyl)urea (103.1 mg) in MeOH (2 ml). The reaction mixture was stirred at ambient temperature for 3 hours. 37% aqueous solution of formaldehyde (0.23 ml) and sodium cyanoborohydride (53 mg) were added to the mixture and the reaction mixture was stirred at ambient temperature for 4 days. The mixture was concentrated in vacuo, and the residue was partitioned between ethyl acetate and H2O. The organic layer was washed with saturated aqueous sodium chloride solution, dried over magnesium sulfate, and concentrated in vacuo. The residue was purified by preparative thin layer silica gel chromatography developed by CHCl3:MeOH:28% aqueous NH4OH=100:10:1. The separated silica gel was extracted with same solvent and the solvent was evaporated in vacuo to give N-(2-{4-[3-(dimethylamino)-1-(4-methoxyphenyl)-1-H-pyrazol-5-yl]phenoxy}ethyl)urea (59.9 mg) as an amorphous powder.

reactant | formaldehyde | 0.23 ml | C=O | CH2O
reactant | sodium cyanoborohydride | 53 mg | C(#N)[BH3-].[Na+]
reactant | N-(2-{4-[3-amino-1-(4-methoxyphenyl)-1H-pyrazol-5-yl]-phenoxy}ethyl)urea | 103.1 mg | NC1=NN(C(=C1)C1=CC=C(OCCNC(=O)N)C=C1)C1=CC=C(C=C1)OC | C19H21N5O3
reactant | formaldehyde | 0.23 ml | C=O | CH2O
reactant | sodium cyanoborohydride | 53 mg | C(#N)[BH3-].[Na+]
solvent | MeOH | 2 ml | CO | CH4O
product | N-(2-{4-[3-(dimethylamino)-1-(4-methoxyphenyl)-1-H-pyrazol-5-yl]phenoxy}ethyl)urea | 59.9 mg | CN(C1=NN(C(=C1)C1=CC=C(OCCNC(=O)N)C=C1)C1=CC=C(C=C1)OC)C | C21H25N5O3
